2188-08-07 05:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - successful ERCP with spincterotomy: + sludge and several stones
   - extubated and reintubated after procedure secondary to hypoxia
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2188-8-7**] 04:21 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-8-6**] 09:04 PM
   Metoprolol - [**2188-8-6**] 09:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-8-7**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 68 (59 - 84) bpm
   BP: 136/74(89) {117/58(74) - 150/77(92)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  4,430 mL
                                                                    631 mL
   PO:
           TF:
   IVF:
                                                                    610 mL
                                                                    582 mL
   Blood products:
                                                                    820 mL
                                                                     50 mL
   Total out:
                                                                    750 mL
                                                                    265 mL
   Urine:
                                                                    750 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,680 mL
                                                                    366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.35/50/85.[**Numeric Identifier 126**]/25/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 106
   Physical Examination
   GENERAL: obese, sedated and intubated, does not respond to verbal
   stimuli
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: irregularly irregular; muffled heart sounds, no murmurs
   palpable
   LUNGS: barrel chested, poor air entry; decreased breath sounds in left
   lower lobe
   ABDOMEN: distended, hypoactive bowel sounds
   EXTREMITIES:1+ edema, 2+ dorsalis dis/ posterior tibial pulses.
   SKIN: 3 bullae lesions over left dorsum
   Labs / Radiology
   148 K/uL
   9.1 g/dL
   118 mg/dL
   2.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   60 mg/dL
   108 mEq/L
   144 mEq/L
   28.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2188-8-7**]  03:22 AM
                             [**2188-8-7**]  03:35 AM
                             [**2188-8-7**]  03:56 AM
                             [**2188-8-7**]  05:30 AM
   WBC
   4.8
   Hct
   28.7
   Plt
   148
   Cr
   2.6
   TCO2
   28
   29
   29
   Glucose
   118
   Other labs: PT / PTT / INR:19.0/30.0/1.7, ALT / AST:235/297, Alk Phos /
   T Bili:337/3.3, Amylase / Lipase:470/561, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PANCREATITIS, ACUTE
   Assessment and Plan: Mr. [**Known lastname 8535**] is an 80 year old gentleman with DM
   2, CHF, Afib on coumadin, history of gallstone pancreatitis, and
   emphysema admitted for gallstone pancreatitis.
   .
   # Gallstone pancreatitis: s/p ERCP
   - patient clinically improving: afebrile, LFTs and pancreatic enzymes
   trending downwards
   - continue IVF: pancreatitis is associated with 3^rd spacing so patient
   likely has increased fluid requirements.   However, given history of
   CHF must balance ins and outs carefully
   - cont. Ciprofloxacin and metronidazole for 24 hrs
   - Follow-up with surgery and ERCP fellow recs
   - Recheck coags, goal INR <1.5
   - Monitor hemodynamics, UOP.
   # Renal failure: Unknown baseline, although with elevated BUN
   suggestive of ARF. Given emesis overnight, this likely is pre-renal
   azotemia.
   - continue IVF, but as above patient must be monitored carefully for
   signs of intravascular overload
   - try to obtain medical records for baseline creatinine
   # Respiratory distress: Patient failed extubation following ERCP.
   Respiratory failure was likely multi-factorial including sedation,
   obstructive disease due to COPD, and possible pulmonary edema (hx. of
   CHF compounded by 3^rd spacing of pancreatitis).   As there is no CXR
   available for comparison, it is difficult to assess whether the patient
   has another contributing underlying pulmonary process
   - try to wean sedation
   - SBT today and extubation if possible
   - continue ipratropium and  albuterol
   # DM 2: Hold orals as patient is NPO, cover with ISS
   .
   # HTN: Continue metoprolol
   .
   # Afib: on longterm anticoagulation, coumadin held for ERCP
   - restart coumadin
   - Continue AV nodal blockade with metoprolol IV for now per surgery,
   can likely convert to PO when stable.
   Contact: [**Name (NI) 787**] (wife) [**Telephone/Fax (1) 8536**]
   ICU Care
   Nutrition: NPO
   Glycemic Control:  HSSI
   Lines:
   20 Gauge - [**2188-8-7**] 01:20 AM
   Prophylaxis:
   DVT: SCD
   Stress ulcer:  PIV
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: critical

2188-08-07 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2188-8-7**] 12:00 AM
 INVASIVE VENTILATION - START [**2188-8-7**] 02:00 AM
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2188-8-7**] 04:21 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-8-6**] 09:04 PM
   Metoprolol - [**2188-8-6**] 09:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-8-7**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 69 (59 - 84) bpm
   BP: 132/77(90) {117/58(74) - 150/77(92)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  4,430 mL
                                                                    758 mL
   PO:
           TF:
   IVF:
                                                                    610 mL
                                                                    708 mL
   Blood products:
                                                                    820 mL
                                                                     50 mL
   Total out:
                                                                    750 mL
                                                                    325 mL
   Urine:
                                                                    750 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,680 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/50/85.[**Numeric Identifier 126**]/25/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   148 K/uL
   9.1 g/dL
   118 mg/dL
   2.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   60 mg/dL
   108 mEq/L
   144 mEq/L
   28.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2188-8-7**]  03:22 AM
                             [**2188-8-7**]  03:35 AM
                             [**2188-8-7**]  03:56 AM
                             [**2188-8-7**]  05:30 AM
   WBC
   4.8
   Hct
   28.7
   Plt
   148
   Cr
   2.6
   TCO2
   28
   29
   29
   Glucose
   118
   Other labs: PT / PTT / INR:19.0/30.0/1.7, ALT / AST:235/297, Alk Phos /
   T Bili:337/3.3, Amylase / Lipase:470/561, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PANCREATITIS, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-8-6**] 05:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-08-07 10:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   To ERCP last PM for sphincterotomy and drainage of sludge and
   gallstones.  Extubated post-procedure, but reportedly required
   reintubation for respiratory acidosis.
   Remains intubated, mechanically ventilated.
   SBT in progress this AM.
   Sedated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2188-8-7**] 04:21 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-8-6**] 09:04 PM
   Metoprolol - [**2188-8-6**] 09:04 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-8-7**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 75 (59 - 84) bpm
   BP: 132/84(93) {117/58(74) - 150/84(93)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  4,430 mL
                                                                  1,191 mL
   PO:
           TF:
   IVF:
                                                                    610 mL
                                                                  1,141 mL
   Blood products:
                                                                    820 mL
                                                                     50 mL
   Total out:
                                                                    750 mL
                                                                    545 mL
   Urine:
                                                                    750 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,680 mL
                                                                    646 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/50/85.[**Numeric Identifier 126**]/25/0
   Ve: 11 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , Obese, Firm
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, 4-5 cm bullae on left hand
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   148 K/uL
   118 mg/dL
   2.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   60 mg/dL
   108 mEq/L
   144 mEq/L
   28.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2188-8-7**]  03:22 AM
                             [**2188-8-7**]  03:35 AM
                             [**2188-8-7**]  03:56 AM
                             [**2188-8-7**]  05:30 AM
   WBC
   4.8
   Hct
   28.7
   Plt
   148
   Cr
   2.6
   TCO2
   28
   29
   29
   Glucose
   118
   Other labs: PT / PTT / INR:19.0/30.0/1.7, ALT / AST:235/297, Alk Phos /
   T Bili:337/3.3, Amylase / Lipase:470/561, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- post-procedure.  Likely related to
   sedation/narcotics post op.  Possible contribution of cardiac
   dysfunction (?h/o CHF).
   ABD PAIN  -- Evidence for choledocholithiasis and pancreatitis.  s/p
   ERCP drainage wit good results.  Monitor exam.
   ACUTE PANCREATITIS -- acute, attributed to gallstones.  Monitor exam,
   serial measurements lipase/amylase.
   RENAL FAILURE -- likely hypovolemia.  Monitor I/O, urine output, BUN,
   creat.  Possible underlying CRI (need to confirm).
   FLUIDs -- Replete following iv fluids., but may have continued 3^rd
   spacing in setting of acute pancreatitis.  Monitor I/O.  Maintain
   balance.  [**Month (only) 51**] require resuming net diuresis once actue pancreatitis
   resolved and clinically improved.
   A-FIB -- good rate control.  Hold coumadin.
   ANTICOAGULATION -- coumadin.  FFP provided prior to ERCP.  Resume
   anticoagulation once OK per ERCP.
   BULLAE LEFT HAND
 possible reaction to tape.  Doubt related to
   infection.
   NUTRITIONAL SUPPORT -- NPO pending resolution.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-8-6**] 05:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2188-08-08 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Difficulties with sedation overnight, now resolved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2188-8-7**] 07:52 PM
   Ciprofloxacin - [**2188-8-7**] 11:53 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-8-7**] 07:52 PM
   Metoprolol - [**2188-8-8**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-8-8**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 81 (64 - 87) bpm
   BP: 138/71(89) {114/57(71) - 150/86(100)} mmHg
   RR: 10 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,271 mL
                                                                    548 mL
   PO:
             TF:
   IVF:
                                                                  2,221 mL
                                                                    548 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,995 mL
                                                                    670 mL
   Urine:
                                                                  1,995 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    276 mL
                                                                   -122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 645 (500 - 645) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 12
   PIP: 10 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 4.4 L/min
   Physical Examination
   GENERAL: obese, sedated and intubated, does not respond to verbal
   stimuli
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: irregularly irregular; muffled heart sounds, no murmurs
   palpable
   LUNGS: barrel chested, poor air entry; decreased breath sounds in left
   lower lobe
   ABDOMEN: distended, hypoactive bowel sounds
   EXTREMITIES:1+ edema, 2+ dorsalis dis/ posterior tibial pulses.
   SKIN: 3 bullae lesions over left dorsum
   Labs / Radiology
   186 K/uL
   10.4 g/dL
   94 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   51 mg/dL
   114 mEq/L
   149 mEq/L
   31.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2188-8-7**]  03:22 AM
                             [**2188-8-7**]  03:35 AM
                             [**2188-8-7**]  03:56 AM
                             [**2188-8-7**]  05:30 AM
                             [**2188-8-8**]  04:15 AM
   WBC
   4.8
   5.4
   Hct
   28.7
   31.6
   Plt
   148
   186
   Cr
   2.6
   2.5
   TCO2
   28
   29
   29
   Glucose
   118
   94
   Other labs: PT / PTT / INR:21.0/31.8/2.0, ALT / AST:215/181, Alk Phos /
   T Bili:373/3.3, Amylase / Lipase:69/31, Albumin:3.5 g/dL, LDH:190 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PANCREATITIS, ACUTE
   Assessment and Plan: Mr. [**Known lastname 8535**] is an 80 year old gentleman with DM
   2, CHF, Afib on coumadin, history of gallstone pancreatitis, and
   emphysema admitted for gallstone pancreatitis.
   .
   # Gallstone pancreatitis: s/p ERCP
   - patient clinically improving: afebrile, LFTs and pancreatic enzymes
   trending downwards
   - continue IVF: pancreatitis is associated with 3^rd spacing so patient
   likely has increased fluid requirements.   However, given history of
   CHF must balance ins and outs carefully
   - cont. Ciprofloxacin and metronidazole for 24 hrs
   - Follow-up with surgery and ERCP fellow recs
   - Recheck coags, goal INR <1.5
   - Monitor hemodynamics, UOP.
   # Renal failure: Unknown baseline, although with elevated BUN
   suggestive of ARF. Given emesis overnight, this likely is pre-renal
   azotemia.
   - continue IVF, but as above patient must be monitored carefully for
   signs of intravascular overload
   - try to obtain medical records for baseline creatinine
   # Respiratory distress: Patient failed extubation following ERCP.
   Respiratory failure was likely multi-factorial including sedation,
   obstructive disease due to COPD, and possible pulmonary edema (hx. of
   CHF compounded by 3^rd spacing of pancreatitis).   As there is no CXR
   available for comparison, it is difficult to assess whether the patient
   has another contributing underlying pulmonary process
   - try to wean sedation
   - SBT today and extubation if possible
   - continue ipratropium and  albuterol
   # DM 2: Hold orals as patient is NPO, cover with ISS
   .
   # HTN: Continue metoprolol
   .
   # Afib: on longterm anticoagulation, coumadin held for ERCP
   - restart coumadin
   - Continue AV nodal blockade with metoprolol IV for now per surgery,
   can likely convert to PO when stable.
   Contact: [**Name (NI) 787**] (wife) [**Telephone/Fax (1) 8536**]
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   20 Gauge - [**2188-8-6**] 05:23 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  PIV
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: critical

2188-08-08 08:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2188-8-7**] 07:52 PM
   Ciprofloxacin - [**2188-8-7**] 11:53 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-8-7**] 07:52 PM
   Metoprolol - [**2188-8-8**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-8-8**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 82 (64 - 89) bpm
   BP: 140/76(92) {114/57(71) - 150/86(100)} mmHg
   RR: 20 (9 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,271 mL
                                                                    663 mL
   PO:
             TF:
   IVF:
                                                                  2,221 mL
                                                                    663 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,995 mL
                                                                    670 mL
   Urine:
                                                                  1,995 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    276 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 645 (500 - 645) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 12
   PIP: 10 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 4.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   186 K/uL
   94 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   51 mg/dL
   114 mEq/L
   149 mEq/L
   31.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2188-8-7**]  03:22 AM
                             [**2188-8-7**]  03:35 AM
                             [**2188-8-7**]  03:56 AM
                             [**2188-8-7**]  05:30 AM
                             [**2188-8-8**]  04:15 AM
   WBC
   4.8
   5.4
   Hct
   28.7
   31.6
   Plt
   148
   186
   Cr
   2.6
   2.5
   TCO2
   28
   29
   29
   Glucose
   118
   94
   Other labs: PT / PTT / INR:21.0/31.8/2.0, ALT / AST:215/181, Alk Phos /
   T Bili:373/3.3, Amylase / Lipase:69/31, Albumin:3.5 g/dL, LDH:190 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- post-procedure.  Likely related to
   sedation/narcotics post op.  Possible contribution of cardiac
   dysfunction (?h/o CHF).
   ABD PAIN  -- Evidence for choledocholithiasis and pancreatitis.  s/p
   ERCP drainage wit good results.  Monitor exam.
   ACUTE PANCREATITIS -- acute, attributed to gallstones.  Monitor exam,
   serial measurements lipase/amylase.
   RENAL FAILURE -- likely hypovolemia.  Monitor I/O, urine output, BUN,
   creat.  Possible underlying CRI (need to confirm).
   FLUIDs -- Replete following iv fluids., but may have continued 3rd
   spacing in setting of acute pancreatitis.  Monitor I/O.  Maintain
   balance.  [**Month (only) 51**] require resuming net diuresis once actue pancreatitis
   resolved and clinically improved.
   A-FIB -- good rate control.  Hold coumadin.
   ANTICOAGULATION -- coumadin.  FFP provided prior to ERCP.  Resume
   anticoagulation once OK per ERCP.
   BULLAE LEFT HAND
 possible reaction to tape.  Doubt related to
   infection.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-8-6**] 05:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2188-08-09 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-8**]
   - successfully extubated without complications
   - No events overnight, remains NPO per surgery
   - started cipro and flagyl x 7 days per surgery
   - decreased IVF to 40 cc/h NS due to concern lungs were wet [**3-10**] hx of
   CHF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2188-8-7**] 07:52 PM
   Ciprofloxacin - [**2188-8-7**] 11:53 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2188-8-8**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-8-9**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 89 (79 - 97) bpm
   BP: 151/75(93) {126/61(77) - 151/86(102)} mmHg
   RR: 14 (7 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,590 mL
                                                                    264 mL
   PO:
             TF:
   IVF:
                                                                  1,590 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    550 mL
   Urine:
                                                                  2,350 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -760 mL
                                                                   -286 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   GENERAL: Pleasant, well appearing,  in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: irregularly irregular. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 1011**].
   LUNGS: [**Last Name (un) 8569**] chested, breathing comfortable on NC, decreased air
   entry b/L
   ABDOMEN: obese, distended, +BS, nontender to palpation
   EXTREMITIES: + 2 pitting edema, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: hyperpigmentation and ulceration of ankles consistent with stasis
   dermatitis, no erythema/ tenderness to palpation, large serous bullae
   on left dorsal hand unchanged.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact.. Gait assessment
   deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   186 K/uL
   10.3 g/dL
   103 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   44 mg/dL
   116 mEq/L
   150 mEq/L
   33.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2188-8-7**]  03:22 AM
                             [**2188-8-7**]  03:35 AM
                             [**2188-8-7**]  03:56 AM
                             [**2188-8-7**]  05:30 AM
                             [**2188-8-8**]  04:15 AM
                             [**2188-8-9**]  04:33 AM
   WBC
   4.8
   5.4
   6.4
   Hct
   28.7
   31.6
   33.1
   Plt
   148
   186
   186
   Cr
   2.6
   2.5
   2.0
   TCO2
   28
   29
   29
   Glucose
   118
   94
   103
   Other labs: PT / PTT / INR:21.0/31.8/2.0, ALT / AST:215/181, Alk Phos /
   T Bili:373/3.3, Amylase / Lipase:69/21, Albumin:3.5 g/dL, LDH:190 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PANCREATITIS, ACUTE
   Assessment and Plan: Mr. [**Known lastname 8535**] is an 80 year old gentleman with DM
   2, CHF, Afib on coumadin, history of gallstone pancreatitis, and
   emphysema admitted for gallstone pancreatitis.
   .
   # Gallstone pancreatitis: s/p ERCP.  Patient clinically improving:
   afebrile, LFTs and pancreatic enzymes trending downwards, pain free
   - decrease IVF to 80 cc/hr D5W  [**3-10**] concern of pulmonary edema due to
   CHF and volume overload.  Will monitor I/O
s carefully as well as
   respiratory status.
   - Day 3 of Cipo and Flagyll
 continue for 7 days per surgery
   - Follow-up with surgery and ERCP fellow recs
   - Monitor hemodynamics, UOP.
   - NPO today, can likely advance diet if surgery agrees
   #Hypernatremia/ hyperchloremia: [**3-10**] fluid resuscitation with NS.  Free
   water deficit is 2.5 L.  Avoid rapid correction, especially considering
   history of CHF
   - 80 cc/hr D5W
   - check sodium this pm
   # Renal failure: contact[**Name (NI) **] PCP, [**Name10 (NameIs) 1123**] around 3.0 since [**5-13**].  Pt
   appears to be at [**Month/Year (2) 1123**] but will monitor.
   - continue IVF, moitor UOP
   # Respiratory distress: Patient extubated and doing well on 2L O2 by
   NC.  Previously failed extubation following ERCP.  Respiratory failure
   was likely multi-factorial including sedation, obstructive disease due
   to COPD, and possible pulmonary edema (hx. of CHF compounded by 3^rd
   spacing of pancreatitis).   As there is no prior CXR available for
   comparison, it is difficult to assess whether the patient has another
   contributing underlying pulmonary process
   - titrate 02 to Sat=>92%
   - continue ipratropium and  albuterol as needed
   # DM 2: Hold orals as patient is NPO, cover with ISS
   # HTN: Continue metoprolol
   # Afib: on longterm anticoagulation, coumadin held for ERCP
   - restart coumadin when INR become sub-therapeutic
   - Continue AV nodal blockade with metoprolol IV for now per surgery,
   can likely convert to PO when stable.
   Contact: [**Name (NI) 787**] (wife) [**Telephone/Fax (1) 8536**]
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  HSSI
   Lines:
   20 Gauge - [**2188-8-6**] 05:23 PM
   Prophylaxis:
   DVT: on longterm anticoagulation (coumadin being held)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: stable, ready to transfer to floor

2188-08-09 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2188-8-8**] 08:13 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2188-8-7**] 07:52 PM
   Ciprofloxacin - [**2188-8-7**] 11:53 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2188-8-8**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-8-9**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 88 (79 - 97) bpm
   BP: 137/71(88) {126/61(77) - 151/86(102)} mmHg
   RR: 16 (7 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,590 mL
                                                                    325 mL
   PO:
             TF:
   IVF:
                                                                  1,590 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    550 mL
   Urine:
                                                                  2,350 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -760 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   186 K/uL
   103 mg/dL
   2.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   44 mg/dL
   116 mEq/L
   150 mEq/L
   33.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2188-8-7**]  03:22 AM
                             [**2188-8-7**]  03:35 AM
                             [**2188-8-7**]  03:56 AM
                             [**2188-8-7**]  05:30 AM
                             [**2188-8-8**]  04:15 AM
                             [**2188-8-9**]  04:33 AM
   WBC
   4.8
   5.4
   6.4
   Hct
   28.7
   31.6
   33.1
   Plt
   148
   186
   186
   Cr
   2.6
   2.5
   2.0
   TCO2
   28
   29
   29
   Glucose
   118
   94
   103
   Other labs: PT / PTT / INR:21.0/31.8/2.0, ALT / AST:215/181, Alk Phos /
   T Bili:373/3.3, Amylase / Lipase:69/21, Albumin:3.5 g/dL, LDH:190 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- post-procedure.  Likely related to
   sedation/narcotics post op.  Possible contribution of cardiac
   dysfunction (?h/o CHF).
 extuabted this AM
   choledocholithiasis and pancreatitis.  s/p ERCP drainage wit good
   results.  Monitor exam.
   RENAL FAILURE
 creatinine at baseline, Monitor I/O, urine output, BUN,
   creat.
   A-FIB -- good rate control.  Hold coumadin.
   BULLAE LEFT HAND
 possible reaction to tape.  Stable, follow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-8-6**] 05:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: